Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
gluten
 
Attending: ___
 
Chief Complaint:
Lower extremity edema and abdominal distension
 
Major Surgical or Invasive Procedure:
1.6 L paracentesis
 
History of Present Illness:
___ female w/ EtOH Cirrhosis c/b varices, HTN who 
presents with ___ week of worsening bilateral leg swelling and 
abdominal swelling. She states the symptoms started 3 weeks ago 
with her L leg becoming more swollen. This has increased over 
the last 3 weeks and is now bilateral. She endorses her L leg 
has a redness for 5 days. She also endorses increasing abdominal 
distention and ~12lb weight gain. (dry weight 124lbs)

She has not really been adherent to a low salt diet or 
medications in past per OMR notes, but states she has been 
taking her two diuretics for the last 3 weeks as prescribed. 

In the ED: Initial Vitals were:99.6 100 123/55 18 100% RA. Labs 
were significant for: Na 136, Cr 0.6, WBC 5.8, Hgb 9.4, Plt 179. 
She had ___ US to r/o DVT and RUQ US. Patient was given no 
medicines. On the floor she was doing well on RA with no 
complaints. 
  
ROS: per HPI, (+) Diarrhea, denies fever, chills, night sweats, 
headache, sore throat, cough, shortness of breath, chest pain, 
abdominal pain, nausea, vomiting,  constipation, BRBPR, melena, 

 
Past Medical History:
EtoH cirrhosis - admitted to ___ in ___ with liver decompensation
Portal gastropathy ___ EGD
Grade II varices ___
Anxiety
Hyperlipidemia.
Hypertension.
Obesity.
Alcohol dependence sober since ___
 
Social History:
___
Family History:
Positive for CAD and diabetes.  No colon cancer. No liver 
cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
GENERAL: Pleasant, ___, in no apparent distress. 
HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear, temporal wasting 
NECK: Supple,  JVP flat.
CARDIAC: RRR, ___ systolic ejection murmur  
PULMONARY: CTA b/l no w/r/r
ABDOMEN: (+) BS, abdominal distention, (+) fluid wave
EXTREMITIES: Warm, ___, 3+ edema b/l up to thigh, 
erythema of lower legs, L>R
NEUROLOGIC: A&Ox3, CN ___ grossly normal, normal sensation

DISCHARGE PHYSICAL EXAMINATION:
VS: 98.4 ___ 18 100%RA
GENERAL: Pleasant, thin, ___, in no apparent 
distress. 
HEENT: normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus 
NECK: Supple 
CARDIAC: RRR + murmur  
PULMONARY: CTAB  
ABDOMEN: + abdominal distention, nontender
EXTREMITIES: Warm, ___, 1+ edema. 12cm rash on LLE 
that is improved. 
NEUROLOGIC: A&Ox3,  grossly normal, no asterixis 
 
Pertinent Results:
ADMISSION LABS:
___ 04:42PM BLOOD ___ 
___ Plt ___
___ 04:42PM BLOOD ___ 
___ Im ___ 
___
___ 06:06PM BLOOD ___ ___
___ 04:42PM BLOOD ___ 
___
___ 04:42PM BLOOD ___
___ 05:15AM BLOOD ___

DISCHARGE LABS:
___ 05:10AM BLOOD ___ 
___ Plt ___
___ 05:10AM BLOOD ___ ___
___ 05:05PM BLOOD ___ 
___
___ 05:05PM BLOOD ___
___ 05:05PM BLOOD ___

PARACENTESIS:
___ 03:01PM ASCITES ___ 
___
___ 03:01PM ASCITES ___ LD(___)-49 ___

STUDIES:

___ CXR:
IMPRESSION:
No previous images.  The cardiac silhouette is within normal 
limits and there is no evidence of vascular congestion, pleural 
effusion, or acute focal pneumonia.

___ RUQ US:
IMPRESSION:
1. No portal vein or IVC thrombus.
2. Cirrhotic liver, mild splenomegaly, and moderate ascites are 
again seen.

___ ___
IMPRESSION:  
No evidence of deep venous thrombosis in the right or left lower 
extremity veins.

 
Brief Hospital Course:
Ms. ___ is a ___ w/ EtOH cirrhosis Childs class B, c/b by 
varices s/p banding ___, presenting with edema and weight 
gain found to have new ascites. 

# ASCITES: Patient w/ new ascites, never had paracentesis 
before, no abdominal pain or leukocytosis to suggest SBP. RUQ 
ultrasound negative for portal vein thrombus. Possibly in 
setting of medication noncompliance and dietary indiscretion. 
Patient reports drinking a lot of water. She underwent fluid 
restriction/ low salt diet education. S/p 1.6L para ___. SAAG 
and total protein c/w liver etiology. She underwent 
therapeutic/diag tap for 1.6 L that was negative for SBP and 
malignant cells. Her Lasix was increased to 40 PO daily. 

#Hypotension: Asymptomatic, down to systolic 88. Likely in 
setting of starting nadolol 40 but persisted despite decreased 
nadolol to 20. Nadolol was discontinued. 

# GIB/VARICES: Grade II varices per ___ EGD. Patient states 
she has not taken nadolol given outpatient hypotension. Trial of 
Nadolol for bleeding prophylaxis resulted in hypotension to 88 
systolic and was discontinued. 

# EtOH CIRRHOSIS: Childs ___ B, sober since ___. MELDNa was 
13 on ___. S/p 1.6L para ___. She was given 25g Albumin x 1.

# LLE erythema: Patient with erythema of lower extremity, over 3 
weeks in setting of edema. Nonblanching, non warm, so likely due 
to edema and not cellulitis as bilateral color changes. Improved 
without intervention. 

# COAGULOPATHY: INR 1.4, PTT 40 on admission. 

TRANSITIONAL ISSUES:
===================
-repeat ___ at ___ visit
- ___ compliance with fluid restriction and ___ diet
- Nadolol was trialed but ultimately held for systolic BPs to 
88. Can consider restarting as outpatient. 
- Increased Lasix to 40 daily, will need close monitoring of 
electrolytes
- Recommend relapse prevention, especially if patient would be 
interested in transplant evaluation should her disease worsen.

#CODE: Full 
#CONTACT: Patient, ___

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Escitalopram Oxalate 10 mg PO DAILY 
2. Furosemide 20 mg PO DAILY 
3. Nadolol 40 mg PO DAILY 
4. Spironolactone 25 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Escitalopram Oxalate 10 mg PO DAILY 
2. Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
3. Spironolactone 25 mg PO DAILY 
RX *spironolactone 25 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
4. Omeprazole 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol cirrhosis
Volume overload
ascites

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___, 

It was a pleasure taking care of you at ___ 
___. You came to the hospital because of worsening 
lower extremity swelling due to your liver disease. We 
determined that you did NOT have a blood clot or an infection in 
your legs. We gave you medicine to help remove the fluid from 
your body and your swelling got better. We also drained some 
fluid from your abdomen. We tried to start you on a medicine to 
protect your varices (blood vessels in your esophagus) but your 
blood pressure was too low with that medication. Please continue 
to take your diuretics as below, this is VERY important so you 
do not have to be readmitted. You also need to limit your sodium 
intake to avoid the fluid from reaccumulating. You should weigh 
yourself everyday, if your weight increases >3 pounds in 1 day, 
call your liver doctor.

We wish you the best,
Your ___ Team
 
Followup Instructions:
___